* C:\Users\RCCol\OneDrive\Documents\git\LTSpiceCircuits\LTSpiceCircuits\Two Rock John Mayer\JM Analysis.asc
V1 N006 0 AC 1
R1 N002 N022 100k
C1 N004 N003 330pF
C2 N022 N025 .047µF
C3 N023 N022 .1µF
R7 N034 0 1.5k
R8 N028 N023 270k
R9 N012 N028 270k
R10 N028 N040 1000k
C4 N028 N040 .01µF
R11 N040 0 10k
XU1 N004 N023 N011 pot_piher_plog Rtot=250000 wiper=.5
XU2 N011 0 N012 pot_piher_plog Rtot=1000k wiper=.5
XU3 N023 N034 N023 pot_piher_plog Rtot=250K wiper=.5
XU4 N025 0 N025 pot_piher_plog Rtot=100k wiper={WIPER}
R2 N013 N012 220k
C6 N013 N012 500pF
C7 N003 N002 .002µF
R3 N015 N021 100000k
R6 N016 N021 220k
R22 N006 0 1000k
R23 N007 N006 22k
XU5 N002 N007 N010 NH12AX7
R24 N010 0 1.5k
C16 N010 0 5µF
R25 N001 N002 100k
V2 N001 0 250V Rser=160
XU6 N008 N013 N020 NH12AX7
R26 N020 0 1.5k
C17 N020 0 5µF
C18 N015 N008 .022µF
V3 N005 0 256V Rser=160
XU7 N018 N016 N024 NH12AX7
R27 N024 0 1.5k
C19 N024 0 5µF
R21 N001 N008 100k
R28 N005 N018 100k
C20 N018 N017 .047µF
R29 N017 N016 10000k
R30 N003 0 4700k
R31 N008 N009 22000k
C21 N009 N014 .05µF
R32 N014 N013 22000k
R4 N021 0 68k
C5 N012 N011 220pf
R5 N019 N018 120k
R12 N046 N012 68k
V4 N033 0 256V Rser=160
XU8 N041 N046 N051 NH12AX7
R13 N051 0 1.5k
C8 N051 0 5µF
R14 N033 N041 100k
C9 N042 N041 .002µF
XU9 N042 0 N047 pot_piher_plog Rtot=100k wiper=.0001
R15 N048 N047 10k
XU10 N036 N048 N050 NH12AT7
XU11 N036 N048 N050 NH12AT7
R16 N050 0 2200
C10 N050 0 10µF
V5 N026 0 403V Rser=160
R17 N026 N030 10k
R18 RevUnitIn+ 0 8
R19 RevUnitOut+ N031 3k
XU12 N030 N036 RevUnitIn+ 0 INTER-TRAFO L1=2H L2=0.5mH K=1 R1=1m R2=1m
B1 N031 0 V=delay(V(RevUnitIn+)/3,0.037) ++delay(V(RevUnitOut+)/3,0.01)
R20 RevUnitOut+ 0 220k
XU13 N037 RevUnitOut+ N045 NH12AX7
C11 N045 0 5µF
R33 N045 0 1.5k
R34 N032 N037 100k
V6 N032 0 403V Rser=160
C12 N038 N037 .002µF
XU14 N038 0 N043 pot_lin Rtot=100k wiper=.5
R35 N044 N043 220k
C13 N038 0 .01µF
XU15 N035 N044 N049 NH12AX7
C14 N049 0 5µF
R36 N049 0 1.5k
R37 N039 N044 10000k
C15 N035 N039 .05µF
V7 N027 0 256V Rser=160
R38 N027 N035 100k
R39 N019 N035 68k
XU16 N019 0 N053 pot_piher_plog Rtot=1000k wiper=1
C22 N061 N053 .02µF
R40 N061 N064 1000k
R41 N064 N069 1000k
R42 N065 N064 820
R43 N064 N063 24k
C23 N069 N063 .1µF
R44 N063 0 390
C24 N063 0 1µF
XU17 N058 N061 N065 NH12AX7
XU18 N070 N069 N065 NH12AX7
V8 N066 0 256V Rser=160
R45 N058 N066 100k
R46 N066 N070 110k
C25 N067 N070 .1µF
C26 N055 N058 .1µF
C27 N055 N062 .0047µF
XU19 N062 N067 N067 pot_piher_plog Rtot=250k wiper=.5
XU20 N052 N054 N056 0 6l6gc 6l6gc
R47 N056 N055 2200
R48 N055 BIAS 220k
R49 BIAS N067 220k
R50 N059 N055 2200
R51 N071 N067 2200
V9 N076 0 -50 Rser=100
XU22 N075 N076 BIAS pot_lin Rtot=10k wiper=.4
R53 N075 0 10k
XU21 N052 N057 N059 0 6l6gc 6l6gc
XU23 N068 N072 N071 0 6l6gc 6l6gc
R52 N073 N067 2200
XU24 N068 N074 N073 0 6l6gc 6l6gc
XU25 N052 HT1 N068 N060 0 PP_OUTPUT_XFRMR
R57 N057 HT2 470
R55 HT2 N072 470
R54 HT2 N054 470
R56 HT2 N074 470
V10 HT1 0 445V Rser=10
L1 HT2 HT1 2 Rser=50
C28 HT2 0 20µF
R58 NC_01 HT2 2200
R59 N060 0 8
R60 N060 N063 12000
.ac oct 200 10 24000
* BASS
* MID
* TREBLE
* GAIN
* DEEP SWITCH
* MID CAP
.include potentiometer_standard.lib
.lib transformer211.sub
.INC dmtriodep.inc
.inc http://tdsl.duncanamps.com/dcigna/tubes/spice/6l6gc.inc
.INC transPPC.INC
.step param WIPER .1 1 .1
* DRY OUT ->
* Reverb Send
* WET OUT ->
* LEVEL
.backanno
.end
