* C:\Users\ryan\Documents\GitHub\LTSpiceCircuits\Two Rock John Mayer\JM Analysis.asc
V1 N005 0 AC .7v
R1 N001 N021 100k
C1 N003 N002 390pF
C2 N021 N024 .047µF
C3 N022 N021 .1µF
R7 N034 0 1.5k
R8 N027 N022 270k
R9 N011 N027 270k
R10 N027 N040 1000k
C4 N027 N040 .01µF
R11 N040 0 10k
XU1 N003 N022 N010 pot_piher_plog Rtot=250000 wiper=.5
XU2 N010 0 N011 pot_piher_plog Rtot=1000k wiper=.5
XU3 N022 N034 N022 pot_piher_plog Rtot=250K wiper=.5
XU4 N024 0 N024 pot_piher_plog Rtot=100k wiper=.5
R2 N012 N011 220k
C6 N012 N011 500pF
C7 N002 N001 1n
R3 N014 N020 100000k
R6 N015 N020 220k
R22 N005 0 1Meg
R23 N006 N005 22k
XU5 N001 N006 N009 NH12AT7
R24 N009 0 1k5
C16 N009 0 4µ7
R25 B+6 N001 100k
XU6 N007 N012 N019 NH12AX7
R26 N019 0 1.5k
C17 N019 0 5µF
C18 N014 N007 .022µF
V3 N004 0 256V Rser=160
XU7 N017 N015 N023 NH12AX7
R27 N023 0 1.5k
C19 N023 0 5µF
R21 B+6 N007 100k
R28 N004 N017 100k
C20 N017 N016 .047µF
R29 N016 N015 10000k
R30 N002 0 4Meg7
R31 N007 N008 22Meg
C21 N008 N013 .047µF
R32 N013 N012 22000k
R4 N020 0 68k
C5 N011 N010 120pf
R5 N018 N017 120k
R12 N046 N011 68k
V4 N033 0 256V Rser=160
XU8 N041 N046 N051 NH12AX7
R13 N051 0 1.5k
C8 N051 0 5µF
R14 N033 N041 100k
C9 N042 N041 .002µF
XU9 N042 0 N047 pot_piher_plog Rtot=100k wiper=.0001
R15 N048 N047 10k
XU10 N036 N048 N050 NH12AT7
XU11 N036 N048 N050 NH12AT7
R16 N050 0 2200
C10 N050 0 10µF
V5 N025 0 403V Rser=160
R17 N025 N030 10k
R18 RevUnitIn+ 0 8
R19 RevUnitOut+ N031 3k
XU12 N030 N036 RevUnitIn+ 0 INTER-TRAFO L1=2H L2=0.5mH K=1 R1=1m R2=1m
B1 N031 0 V=delay(V(RevUnitIn+)/3,0.037) ++delay(V(RevUnitOut+)/3,0.01)
R20 RevUnitOut+ 0 220k
XU13 N037 RevUnitOut+ N045 NH12AX7
C11 N045 0 5µF
R33 N045 0 1.5k
R34 N032 N037 100k
V6 N032 0 403V Rser=160
C12 N038 N037 .002µF
XU14 N038 0 N043 pot_lin Rtot=100k wiper=.5
R35 N044 N043 220k
C13 N038 0 470pF
XU15 N035 N044 N049 NH12AX7
C14 N049 0 5µF
R36 N049 0 1.5k
R37 N039 N044 10000k
C15 N035 N039 .05µF
V7 N026 0 256V Rser=160
R38 N026 N035 100k
R39 N018 N035 68k
XU16 N018 0 N053 pot_piher_plog Rtot=1000k wiper=1
C22 N061 N053 .02µF
R40 N061 N064 1000k
R41 N064 N069 1000k
R42 N065 N064 820
R43 N064 N063 24k
C23 N069 N063 .1µF
R44 N063 0 390
C24 N063 0 1µF
XU17 N058 N061 N065 NH12AX7
XU18 N070 N069 N065 NH12AX7
V8 N066 0 256V Rser=160
R45 N058 N066 110k
R46 N066 N070 120k
C25 N067 N070 .1µF
C26 N055 N058 .1µF
C27 N055 N062 .0047µF
XU19 N062 N067 N067 pot_piher_plog Rtot=250k wiper=.5
XU20 N052 N054 N056 0 6l6gc 6l6gc
R47 N056 N055 2200
R48 N055 BIAS 220k
R49 BIAS N067 220k
R50 N059 N055 2200
R51 N071 N067 2200
V9 N076 0 -50 Rser=100
XU22 N075 N076 BIAS pot_lin Rtot=10k wiper=.4
R53 N075 0 10k
XU21 N052 N057 N059 0 6l6gc 6l6gc
XU23 N068 N072 N071 0 6l6gc 6l6gc
R52 N073 N067 2200
XU24 N068 N074 N073 0 6l6gc 6l6gc
XU25 N052 B+ N068 N060 0 PP_OUTPUT_XFRMR
R57 N057 B+2 470
R55 B+2 N072 470
R54 B+2 N054 470
R56 B+2 N074 470
R59 N060 0 8
R60 N060 N063 12000
V11 B+ 0 450 Rser=160
L2 B+2 B+ 4
C29 B+ 0 100µ
C30 B+2 0 22µ
C31 B+4 0 22µ
C32 B+6 0 22µ
C33 N029 0 22µ
R61 B+6 B+4 22k
R62 B+3 B+4 10k
R63 B+4 B+2 2k2
R64 N029 B+6 2k2
R65 N029 0 150k
.ac oct 200 10 24000
* BASS
* MID
* TREBLE
* GAIN
* DEEP SWITCH
* MID CAP
.include potentiometer_standard.lib
.lib transformer211.inc
.INC dmtriodep.inc
.inc http://tdsl.duncanamps.com/dcigna/tubes/spice/6l6gc.inc
.INC transPPC.INC
.step param WIPER .1 1 .1
* DRY OUT ->
* Reverb Send
* WET OUT ->
* LEVEL
.backanno
.end
