* C:\Users\ryan\Documents\GitHub\LTSpiceCircuits\Two Rock John Mayer\JM Analysis.asc
V1 N004 0 SINE(0 .125 1k)
R1 N002 N020 100k
C1 N003 N001 390pF
C2 N020 N023 .047µF
C3 N021 N020 .1µF
R7 N029 0 1k8
R8 N024 N021 270k
R9 N010 N024 270k
R10 N024 N035 1Meg
C4 N024 N035 10n
R11 N035 0 10k
XU1 N001 N021 N009 pot_piher_plog Rtot=250000 wiper=.5
XU2 N009 0 N010 pot_piher_plog Rtot=1000k wiper=.5
XU3 N021 N029 N021 pot_piher_plog Rtot=250K wiper=.5
XU4 N023 0 N023 pot_piher_plog Rtot=100k wiper=.5
R2 N011 N010 220k
C6 N011 N010 470p
C7 N001 N002 1n
R3 N013 N019 1Meg
R6 N014 N019 220k
R22 N004 0 1Meg
R23 N005 N004 22k
XU5 N002 N005 N008 NH12AX7
R24 N008 0 1k5
C16 N008 0 4µ7
R25 B+6 N002 100k
XU6 N006 N011 N018 NH12AX7
R26 N018 0 1.5k
C17 N018 0 5µF
C18 N013 N006 22n
XU7 N016 N014 N022 NH12AX7
R27 N022 0 1k5
C19 N022 0 4µ7
R21 B+6 N006 100k
R28 B+5 N016 100k
C20 N016 N015 47n
R29 N015 N014 10Meg
R30 N003 0 4Meg7
R31 N006 N007 22Meg
C21 N007 N012 47nf
R32 N012 N011 22Meg
R4 N019 0 68k
C5 N010 NC_01 120pf
R5 N017 N016 68k
R12 N041 N010 68k
XU8 N036 N041 N046 NH12AX7
R13 N046 0 1k5
C8 N046 0 4µ7
R14 B+5 N036 100k
C9 N037 N036 .002µF
XU9 N037 0 N042 pot_piher_plog Rtot=100k wiper=.0001
R15 N043 N042 10k
XU10 N031 N043 N045 NH12AT7
XU11 N031 N043 N045 NH12AT7
R16 N045 0 2k2
C10 N045 0 10µF
R17 B+3 N027 10k
R18 RevUnitIn+ 0 8
R19 RevUnitOut+ N028 3k
XU12 N027 N031 RevUnitIn+ 0 INTER-TRAFO L1=2H L2=0.5mH K=1 R1=1m R2=1m
B1 N028 0 V=delay(V(RevUnitIn+)/3,0.037) ++delay(V(RevUnitOut+)/3,0.01)
R20 RevUnitOut+ 0 220k
XU13 N032 RevUnitOut+ N040 NH12AX7
C11 N040 0 5µF
R33 N040 0 1.5k
R34 B+5 N032 100k
C12 N033 N032 .002µF
XU14 N033 0 N038 pot_lin Rtot=100k wiper=.5
R35 N039 N038 220k
C13 N033 0 750pF
XU15 N030 N039 N044 NH12AX7
C14 N044 0 4µ7
R36 N044 0 1k5
R37 N034 N039 10Meg
C15 N030 N034 .05µF
R38 B+5 N030 100k
R39 N017 N030 68k
XU16 N017 0 N048 pot_piher_plog Rtot=1000k wiper=1
C22 N056 N048 .02µF
R40 N056 N059 1Meg
R41 N059 N063 1Meg
R42 N060 N059 820
R43 N059 N058 24k
C23 N063 N058 .1µF
R44 N058 0 390
C24 N058 0 1µF
XU17 N053 N056 N060 NH12AX7
XU18 N064 N063 N060 NH12AX7
R45 N053 B+4 110k
R46 B+4 N064 120k
C25 N061 N064 .1µF
C26 N050 N053 .1µF
C27 N050 N057 .0047µF
XU19 N057 N061 N061 pot_piher_plog Rtot=250k wiper=.5
XU20 N047 N049 N051 0 6l6gc 6l6gc
R47 N051 N050 2200
R48 N050 BIAS 220k
R49 BIAS N061 220k
R50 N054 N050 2200
R51 N065 N061 2200
V9 N070 0 -50 Rser=100
XU22 N069 N070 BIAS pot_lin Rtot=10k wiper=.4
R53 N069 0 10k
XU21 N047 N052 N054 0 6l6gc 6l6gc
XU23 N062 N066 N065 0 6l6gc 6l6gc
R52 N067 N061 2200
XU24 N062 N068 N067 0 6l6gc 6l6gc
XU25 N047 B+ N062 N055 0 PP_OUTPUT_XFRMR
R57 N052 B+2 470
R55 B+2 N066 470
R54 B+2 N049 470
R56 B+2 N068 470
R59 N055 0 8
R60 N055 N058 12000
V11 B+ 0 426 Rser=160
L2 B+2 B+ 4
C29 B+ 0 100µ
C30 B+2 0 22µ
C31 B+4 0 22µ
C32 B+6 0 22µ
C33 N026 0 22µ
R61 B+6 B+4 22k
R62 B+3 B+4 10k
R63 B+4 B+2 2k2
R64 N026 B+6 2k2
R65 N026 0 150k
;ac oct 200 10 24000
* BASS
* MID
* TREBLE
* GAIN
* DEEP SWITCH
* MID CAP
.include potentiometer_standard.lib
.lib transformer211.inc
.INC dmtriodep.inc
.inc http://tdsl.duncanamps.com/dcigna/tubes/spice/6l6gc.inc
.INC transPPC.INC
.step param WIPER .1 1 .1
* DRY OUT ->
* Reverb Send
* WET OUT ->
* LEVEL
.tran 10ms
.backanno
.end
